US05403847
2,6-Dimethyl-4-(4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid [3-(4,4-diphenylpiperidin-1-yl)propyl]ester methyl ester hydrochloride (Compound 8)
To a solution of 2,6-dimethyl-4-(4-nitrophenyl)-1,4-dihydro-pyridine-3,5-dicarboxylic acid [3-(4,4-diphenylpiperidine-1-yl)-propyl]ester methyl ester (710 mg, 1.16 mmol, 1.0 equiv) in EtOH (5 mL) was added a solution of HCl in ether (1.0M, 1.5 mL, 1.5 mmol, 1.3 equiv). The solvents were removed and the residue was dissolved in CH2Cl2. This solution was added dropwise to 25 mL of ether to afford, after filtration, 500 mg of yellow crystalline solid: m.p. 152°-153° C. Anal. Calcd. for C36H39N3O6.HCl: C, 66.92; H, 6.24;N, 6.50. Found: C, 66.70; H, 5.99;N, 6.27.

reactant | 2,6-dimethyl-4-(4-nitrophenyl)-1,4-dihydro-pyridine-3,5-dicarboxylic acid [3-(4,4-diphenylpiperidine-1-yl)-propyl]ester methyl ester | 1.16 mmol, 710 mg, 1.0 equiv | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C36H39N3O6
reactant | HCl | Cl | ClH
reactant | ether | 1.5 mmol, 1.0M, 1.5 mL, 1.3 equiv | CCOCC | C4H10O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2,6-Dimethyl-4-(4-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid [3-(4,4-diphenylpiperidin-1-yl)propyl]ester methyl ester hydrochloride | Cl.COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C36H39N3O6.ClH/c1-25-31(34(40)44-3)33(27-15-17-30(18-16-27)39(42)43)32(26(2)37-25)35(41)45-24-10-21-38-22-19-36(20-23-38,28-11-6-4-7-12-28)29-13-8-5-9-14-29;/h4-9,11-18,33,37H,10,19-24H2,1-3H3;1H
